US09056873B2
Step A: 3-cyclopropyl-5-iodoisothiazole
To a water (1.4 mL) and ice (5.0 cc) suspension was added 3-cyclopropylisothiazol-5-amine (500 mg, 3.57 mmol) followed by concentrated sulfuric acid (1.4 mL). A solution of sodium nitrite (258 mg, 3.74 mmol) in water (5.0 mL) was added dropwise at 0° C., and the mixture was stirred at 0° C. for 1 hour. Next, a solution of potassium iodide (622 mg, 3.74 mmol) in water (3.5 mL) was added dropwise at 0° C., and the mixture was heated at 80° C. for 1 hour. Ethyl acetate at 0° C. was added and the mixture was neutralized with potassium carbonate. The organic layer was separated, dried over magnesium sulfate, concentrated under reduced pressure, and purified by silica gel chromatography (Flash 60 column) eluting with hexane/EtOAc (19:1) to give the title compound as green oil (356.5 mg, 40%). 1H NMR (500 MHz, CDCl3) δ ppm 0.92-0.98 (m, 2H), 0.98-1.04 (m, 2H), 2.13-2.20 (m, 1H), 7.06 (s, 1H).

reactant | 3-cyclopropylisothiazol-5-amine | 3.57 mmol, 500 mg | C1(CC1)C1=NSC(=C1)N | C6H8N2S
reactant | sulfuric acid | 1.4 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 3.74 mmol, 258 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 3.74 mmol, 622 mg | [I-].[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 5.0 mL | O | H2O
solvent | water | 3.5 mL | O | H2O
solvent | water | 1.4 mL | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-cyclopropyl-5-iodoisothiazole | 356.5 mg, 40% | C1(CC1)C1=NSC(=C1)I | C6H6INS
